US05280047
Product D: Ethyl 2Z-[(4-octylphenyl)methylene]-3-oxobutanoate
Ethyl acetoacetate (11.8g, 0.092 moles), paraoctylbenzaldehyde (10.0 g, 0.046 moles) and piperidine (1.5ml) were stirred for 48 hrs. at room temperature. Ethyl acetate (50ml) was added and the solution was added to water (100ml). The layers were separated and the organic layer dried over anhydrous sodium sulfate, filtered and concentrated to an oily solid. The title products were separated and purified by silica gel chromatography. The structure assignments were supported by NMR, infrared spectra and elemental analysis (330.5)

reactant | Ethyl acetoacetate | 0.092 moles, 11.8g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | paraoctylbenzaldehyde | 0.046 moles, 10.0 g | C(CCCCCCC)C1=CC=C(C=O)C=C1 | C15H22O
reactant | piperidine | 1.5ml | N1CCCCC1 | C5H11N
reactant | Ethyl acetate | 50ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100ml | O | H2O
product | Ethyl 2Z-[(4-octylphenyl)methylene]-3-oxobutanoate | C(CCCCCCC)C1=CC=C(C=C1)\C=C(/C(=O)OCC)\C(C)=O | C21H30O3
